* C:\Users\yoshinaga\Documents\Python Scripts\hard-related\hard-ware\degital_circuit\LTpice\basic\analysisi-basic\amp1.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 SINE(0 10 50)
R1 N001 out 100
R2 out N002 {Rx}
Q2 out N002 N003 0 NPN
R3 N002 0 50
R4 N003 0 150
R5 out 0 150
.model NPN NPN
.model PNP PNP
.lib C:\Users\yoshinaga\AppData\Local\LTspice\lib\cmp\standard.bjt
.step param Rx 1 1000 101
.tran 1
.backanno
.end
