* C:\Users\yoshinaga\Documents\Python Scripts\hard-related\hard-ware\degital_circuit\LTpice\basic\analysisi-basic\conjuction.asc
* Generated by LTspice 24.1.9 for Windows.
L1 N003 0 400µ Rser=0.001
L2 N004 0 {Lx} Rser=0.001
V1 N001 0 SINE(0 100 50)
R§100 N004 N005 100
R1 N002 N001 300
L3 N002 N003 100m
L4 N005 0 200m
.tran 0.5
.step param Lx 100u 900u 100u
K L1 L2 0.98
.backanno
.end
