* C:\Users\yoshinaga\Documents\Python Scripts\hard-related\hard-ware\degital_circuit\LTpice\basic\analysisi-basic\rc-seriese.asc
* Generated by LTspice 24.1.9 for Windows.
R§5 N001 N002 5
C1 0 N002 1m
V1 N001 0 SINE(0 1 60 0)
.tran 0.5
.backanno
.end
