* C:\Users\yoshinaga\Documents\Python Scripts\hard-related\hard-ware\degital_circuit\LTpice\basic\analysisi-basic\rl-parallel.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N001 0 2
L1 N001 0 6.36m
I1 0 N001 SINE(0 100m 500)
.tran 0.5
.backanno
.end
