* C:\Users\yoshinaga\Documents\Python Scripts\hard-related\hard-ware\degital_circuit\LTpice\basic\analysisi-basic\rlc-seriese.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 SINE(0 5 50) AC 1 0
R1 N002 N001 50
L1 N002 N003 100m
C1 N003 0 0.16µ
.ac oct 100 10 10000
.backanno
.end
