* C:\Users\yoshinsh.AP\PycharmProjects\forWork\hard-ware\degital_circuit\LTpice\basic\and\and_mos.asc
* Generated by LTspice 24.1.9 for Windows.
V1 P001 0 5.4
R1 P001 N001 50
V2 Vin_B 0 PULSE(0 5 4n 0 0 2n 6n)
V3 Vin_A 0 PULSE(0 5 2n 0 0 2n 6n)
M1 N001 Vin_A P002 P002 BS170
M2 P002 Vin_B 0 0 BS170
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\yoshinsh.AP\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 20n
.backanno
.end
