* C:\Users\yoshinsh.AP\PycharmProjects\forWork\hard-ware\degital_circuit\LTpice\basic\rs-ff\rs-ff-nor.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 5
Q1 N004 N007 N006 0 NPN
Q2 N009 N008 output 0 NPN
Q3 N002 N003 N005 0 NPN
Q4 output N010 0 0 NPN
R1 N001 N002 15
R2 N010 0 10
D1 N005 output D
D2 0 output D
D3 0 N006 D
V3 N006 0 PULSE(0 4 1n 0 0 2n 6n)
R3 N001 N003 10
R4 N001 N007 5
R5 N001 N008 5
Q5 N003 N004 N010 0 NPN
Q6 N003 N009 N010 0 NPN
V4 N011 0 5
Q7 N014 N017 N016 0 NPN
Q8 N019 N018 output 0 NPN
Q9 N012 N013 N015 0 NPN
Q10 output N020 0 0 NPN
R6 N011 N012 15
R7 N020 0 10
D4 N015 output D
D5 0 output D
D6 0 N016 D
V6 N016 0 PULSE(0 4 3n 0 0 2n 6n)
R8 N011 N013 10
R9 N011 N017 5
R10 N011 N018 5
Q11 N013 N014 N020 0 NPN
Q12 N013 N019 N020 0 NPN
.model D D
.lib C:\Users\yoshinsh.AP\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yoshinsh.AP\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 100n
* .tran 100n
.backanno
.end
