* C:\Users\yoshinsh.AP\PycharmProjects\forWork\hard-ware\degital_circuit\LTpice\basic\rs-ff\rs-flip-flop.asc
* Generated by LTspice 24.1.9 for Windows.
A1 N001 N002 0 0 0 Q2 Q1 0 SRFLOP Vhigh=5
V1 N001 0 PULSE(0 5 4n 0 0 2n 6n)
V2 N002 0 PULSE(0 5 2n 0 0 2n 6n)
.tran 20n
.backanno
.end
