* C:\Users\yoshinaga\Documents\Python Scripts\hard-related\hard-ware\degital_circuit\LTpice\inductance\Draft1.asc
* Generated by LTspice 24.1.9 for Windows.
R2 N002 N001 1
Q1 N002 N003 0 0 LS301
V2 N001 N004 50
B1 N004 N003 I=2
.model NPN NPN
.model PNP PNP
.lib C:\Users\yoshinaga\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 10m
.backanno
.end
