* C:\Users\yoshinaga\Documents\Python Scripts\hard-related\hard-ware\degital_circuit\LTpice\inductance\low-pass-filter\rc_v3.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 PULSE(0 10 1m 0 0 5m 10m 0)
R1 N003 0 1
L1 N001 N002 1m
C1 N002 N003 1µ
.tran 20m
.backanno
.end
