* C:\Users\yoshinaga\Documents\Python Scripts\hard-related\hard-ware\degital_circuit\LTpice\invertor\full-bridge\circuit\pnp_v3.asc
* Generated by LTspice 24.1.9 for Windows.
V2 P001 0 PULSE(0 10 2m 0 0 5m 10m)
M1 N001 P002 0 0 NMOS
V1 N002 0 30
R1 N002 N001 10
R2 P001 P002 10
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\yoshinaga\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 50m
.backanno
.end
