* C:\Users\yoshinsh.AP\PycharmProjects\forWork\hard-ware\degital_circuit\LTpice\sequential_circuit\d-flip-flop.asc
* Generated by LTspice 24.1.9 for Windows.
A1 N001 0 in 0 0 N001 out 0 DFLOP vlow=0 vhigh=5
V1 in 0 PULSE(0 5 {1/2/f} 10n 10n {1/2/f} {1/f})
.param f=1k
.tran {5/f}
.backanno
.end
