* C:\Users\yoshinsh.AP\PycharmProjects\forWork\hard-ware\degital_circuit\LTpice\sequential_circuit\latch\and.asc
* Generated by LTspice 24.1.9 for Windows.
A1 0 N001 0 N002 0 out2 out1 0 AND
V1 N001 0 PULSE(0 5 0 0 0 2n 6n)
V2 N002 0 PULSE(0 5 0 0 0 4n 6n)
.tran 100n
.backanno
.end
